US05792769
i) 2-Chlorobenzenesulfonic acid 3-[(piperidin-4-yl)methoxy]phenyl ester
2-Chlorobenzenesulfonic acid 3 -[[N-(tert-butoxycarbonyl)piperidin-4-yl]-methoxy]phenyl ester (565 mg, 1.2 mmol), as prepared in the preceding step, was treated with 30 mL of 4N HCl in 1,4-dioxan and stirred at room temperature for 2 h. After removing the solvent in vacuo, the residue was purified by flash column chromatography (5% methanol in methylene chloride to 5% methanol in methylene chloride saturated with NH3) to give the title compound as a white foam (360 mg, 79%). 1H-NMR (300 MHz, CDCl3) δ 1.50 (m, 2H), 1.91 (m, 3H), 2.77 (t, 2H), 3.33 (d, 2H), 3.73 (d, 2H), 4.44 (bs, 1H), 6.69 (m, 2H), 6.77 (dd, 1H), 7.16 (t, 1H), 7.37 (t, 1H), 7.62 (m, 2H), 7.95 (dd, 1H). Mass spectrum (MALDI-TOF, sinapinic acid matrix) calcd. for C18H20NO4SCl: 382.1 (M+H), 404.1 (M+Na). Found: 382.1, 404.5.

reactant | 2-Chlorobenzenesulfonic acid 3 -[[N-(tert-butoxycarbonyl)piperidin-4-yl]-methoxy]phenyl ester | 1.2 mmol, 565 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC=1C=C(C=CC1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C23H28ClNO6S
reactant | HCl | 4N, 30 mL | Cl | ClH
solvent | 1,4-dioxan | O1CCOCC1 | C4H8O2
product | 2-Chlorobenzenesulfonic acid 3-[(piperidin-4-yl)methoxy]phenyl ester | 360 mg, 79% | N1CCC(CC1)COC=1C=C(C=CC1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C18H20ClNO4S
